US06060469
A mixture of 3-bromo-4-methoxybenzonitrile (9 g, 42 mmol), sodium azide (3.03 g, 46.7 mmol) and ammonium chloride (2.5 g, 46.7 mmol) in N,N-dimethylforlmamide (50 ml) was heated at 90° C. for 18 hours. The reaction was cooled, poured onto ice (200 ml) and acidified with 1N HCl to pH1. The resultant solid was filtered, dried and recrystallized from ethanol/water to give 2-bromo-4-(tetrazol-5-yl)anisole (9.2 g). 1H NMR 360 MHz, DMSO-d6) δ 3.95 (3H, s), 7.35 (1H, d, J=8.6 Hz), 8.05 (1H, d, =8.6 Hz), 8.23 (1H, s). To a suspension of sodium hydride (60% dispersed, 1.5 g, 37 mmol) in N,N-dimethylformamide was added the foregoing anisole (5 g, 32.5 mmol) and the reaction stirred at room temperature for 2 hours. The reaction was diluted with water (70 ml) and the resultant solid filtered, dried and chromatographed on silica eluting with 60% ethyl acetate/hexane to give 2-bromo-4-(2-methyltetrazol-5-yl)anisole (3.2 g), 1H NMR (360 MHz, CDCl3) δ 3.97 (3H, s), 4.39 (3H, s), 7.00 (1H, d, J=12.4 Hz), 8.07 (1H, dd, J=12.4 and 3.0 Hz), 8.34 (1H, d, J=3.0 Hz); and 2-bromo-4-(1-methyltetrazol-5-yl)anisole (0.8 g), 1H NMR (360 MHz, CDCl3) δ 3.94 (3H, s), 4.13 (3H, s), 7.01 (1H, d, J=8.6 Hz), 7.66 (1H, dd, J=8.6 and 2.2 Hz), 7.90 (1H, d, J=2.2 Hz).

reactant | 3-bromo-4-methoxybenzonitrile | 42 mmol, 9 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | sodium azide | 46.7 mmol, 3.03 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 46.7 mmol, 2.5 g | [Cl-].[NH4+]
reactant | HCl | 1N | Cl | ClH
product | 2-bromo-4-(tetrazol-5-yl)anisole | 9.2 g | BrC1=C(C=CC(=C1)C1=NN=NN1)OC | C8H7BrN4O
